US07517996B2
(Step B-7) Synthesis of methyl 3-(4-{4-[1-(2-chlorophenyl)ethoxycarbonylamino]-3-isoxazolyl}benzylsulfanyl)propionate
1-(2-Chlorophenyl)ethyl[3-(4-chloromethylphenyl)isoxazolyl]carbamate (3.51 g, 8.97 mmol) was dissolved in dichloromethane (70 ml), methyl 3-mercaptopropionate (4.46 g, 37.11 mmol) and triethylamine (5.45 g, 53.86 mmol) were added, and the mixture was stirred overnight at room temperature. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (hexane:ethyl acetate=4:1) to give the title compound (2.80 g, 66%). The 1H-NMR and MS spectrum of the compound obtained here matched with the spectrum of the compound obtained in Example 1, Step A-7.

reactant | 1-(2-Chlorophenyl)ethyl[3-(4-chloromethylphenyl)isoxazolyl]carbamate | 8.97 mmol, 3.51 g | ClC1=C(C=CC=C1)C(C)N(C([O-])=O)C=1C(=NOC1)C1=CC=C(C=C1)CCl
reactant | methyl 3-mercaptopropionate | 37.11 mmol, 4.46 g | SCCC(=O)OC | C4H8O2S
reactant | triethylamine | 53.86 mmol, 5.45 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | methyl 3-(4-{4-[1-(2-chlorophenyl)ethoxycarbonylamino]-3-isoxazolyl}benzylsulfanyl)propionate | 2.80 g, 66% | ClC1=C(C=CC=C1)C(C)OC(=O)NC=1C(=NOC1)C1=CC=C(CSCCC(=O)OC)C=C1 | C23H23ClN2O5S
